US06187805B1
b) 3-(2-Dimethylamino-ethyl)-5-hydroxy1H-indole-1-carboxylic acid tert-butyl ester
A solution of 5-benzyloxy-3-(2-dimethylamino-ethyl)-1H-indole-1-carboxylic acid tert-butyl ester (303 mg, 0.77 mmol) and 4N hydrochloric acid (192 ml, 0.77 mmol) in ethanol (10 ml) was hydrogenated over 10% palladium on carbon (100 mg) at 40 psi for 4 hours. The catalyst was removed by filtration. The filtrate was evaporated and the residue was partitioned between aqueous sodium hydrogen carbonate and dichloromethane. The aqueous was further extracted with dichloromethane (×2). The combined extracts were dried (K2CO3), filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with dichloromethane/methanol/aqueous ammonia (60:8:1) to give the title compound (117 mg, 50%) as a colourless solid. δH (360 MHz, CDCl3) 1.64 (9H, s), 2.45 (6H, s), 2.73-2.80 (2H, m), 2.88-2.93 (2H, m), 6.82-6.85 (1H, m), 6.96 (1H, br s), 7.33 (1H, br s), 7.92 (1H, m). m/z (CI+) 305 [MH]+. Found: C, 64.07; H, 8.07; N, 8.71. C17H24N2O3. 0.8 H2O requires C, 64.01; H, 8.15; N, 8.78%.

reactant | 5-benzyloxy-3-(2-dimethylamino-ethyl)-1H-indole-1-carboxylic acid tert-butyl ester | 0.77 mmol, 303 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)CCN(C)C | C24H30N2O3
reactant | hydrochloric acid | 0.77 mmol, 4N, 192 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-(2-Dimethylamino-ethyl)-5-hydroxy1H-indole-1-carboxylic acid tert-butyl ester | 117 mg, 50% | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)O)CCN(C)C | C17H24N2O3
